US08283354B2
A solution of (pyridin-4-yl)methanol (2.0 g, 18.3 mmol) and di(1H-imidazol-1-yl)methanone (5.94 g, 36.6 mmol) in 20 mL CH2Cl2 was heated overnight at 50° C. The reaction was quenched with water, extracted with CH2Cl2, dried over Na2SO4, filtered, and concentrated. Purification via silica gel chromatography using 10-70% EtOAc in CH2Cl2 gave (pyridin-4-yl)methyl 1H-imidazole-1-carboxylate (3 g, 81%). LC/MS: m/z 204.3 (M+H)+ at 0.38 min (v). 1H NMR (400 MHz, CDCl3) δ 8.69 (dd, J=4.4, 1.6 Hz, 2H), 8.20 (t, J=0.9 Hz, 1H), 7.47 (t, J=1.5 Hz, 1H), 7.34 (dd, J=4.4, 1.6 Hz, 2H), 7.11 (dd, J=1.6, 0.8 Hz, 1H), 5.45 (s, 2H).

reactant | (pyridin-4-yl)methanol | 18.3 mmol, 2.0 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | di(1H-imidazol-1-yl)methanone | 36.6 mmol, 5.94 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (pyridin-4-yl)methyl 1H-imidazole-1-carboxylate | 3 g, 81% | N1(C=NC=C1)C(=O)OCC1=CC=NC=C1 | C10H9N3O2
